US05292458
100 ml 2N hydrochloric acid is added to a solution of which 60.6 g (0.15 mol) N, N-octadecylmethyl-p-nitroaniline is dissolved into 500 ml ethyl alcohol. 52.5 g (0.13 mol) N, N-octadecylmethyl-p-phenylenediamine is obtained after adding 48.8 g (0.75 mol) zinc dust to the solution and heat and reflux it for one hour.

reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
reactant | N-octadecylmethyl-p-nitroaniline | C(CCCCCCCCCCCCCCCCC)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C25H44N2O2
reactant | ethyl alcohol | 500 ml | C(C)O | C2H6O
product | N-octadecylmethyl-p-phenylenediamine | C(CCCCCCCCCCCCCCCCC)NC1=CC=C(C=C1)NC | C25H46N2
